US05843942
A solution of 4-chloromethylpyridine hydrochloride (0.12 g, 0.73 mmol) in DMF (3 ml) was treated with potassium carbonate (0.29 g, 2.10 mmol). A solution of methyl 2-[N-(5-bromo-2-hydroxybenzyl)-N-ethylamino]pyridine-5-carboxylate (0.26 g, 0.71 mmol) in DMF (4 ml) was added. The reaction was stirred for 24 hours and then the reaction was diluted with water and extracted with ethyl acetate (×3). The organic phases were combined and washed with water and brine once, dried (MgSO4) and evaporated. Chromatography eluant: ethyl acetate/hexane gave methyl 2-[N-(5-bromo-2-(4-pyridylmethoxy)benzyl)-N-ethylamino]pyridine-5-carboxylate as a white solid (0.209 g, 65%).

reactant | 4-chloromethylpyridine hydrochloride | 0.73 mmol, 0.12 g | Cl.ClCC1=CC=NC=C1
reactant | potassium carbonate | 2.10 mmol, 0.29 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl 2-[N-(5-bromo-2-hydroxybenzyl)-N-ethylamino]pyridine-5-carboxylate | 0.71 mmol, 0.26 g | BrC=1C=CC(=C(CN(CC)C2=NC=C(C=C2)C(=O)OC)C1)O | C16H17BrN2O3
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
solvent | DMF | 4 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | methyl 2-[N-(5-bromo-2-(4-pyridylmethoxy)benzyl)-N-ethylamino]pyridine-5-carboxylate | 0.209 g, 65% | BrC=1C=CC(=C(CN(CC)C2=NC=C(C=C2)C(=O)OC)C1)OCC1=CC=NC=C1 | C22H22BrN3O3
